US03996282
A stirred mixture of 35.6 parts of dimethylaminoethanol in 60 parts of water was heated to 90° and 73.6 parts of N-ethyl-N-(2-chloroethyl)aniline was gradually added. The mixture was heated at 90°-95°. After two and one-half hours there was obtained N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-2-hydroxyethylammonium chloride in the form of an aqueous solution.

reactant | dimethylaminoethanol | CN(C)CCO | C4H11NO
reactant | N-ethyl-N-(2-chloroethyl)aniline | C(C)N(C1=CC=CC=C1)CCCl | C10H14ClN
solvent | water | O | H2O
product | N,N-dimethyl-N-2-(N'-ethylanilino)ethyl-N-2-hydroxyethylammonium chloride | [Cl-].C[N+](CCO)(CCN(C1=CC=CC=C1)CC)C | InChI=1S/C14H25N2O.ClH/c1-4-15(14-8-6-5-7-9-14)10-11-16(2,3)12-13-17;/h5-9,17H,4,10-13H2,1-3H3;1H/q+1;/p-1
